US08372884B2
Synthesis of ((R)-2-(cyclopropanesulfonamido)-3-((2E,6E)-3,7,11-trimethyldodeca-2,6,10-trienylthio)propanoic acid) (Compound N-79):
In a 100 mL round bottom flask, to a suspension of cyclopropanesulfonyl chloride (169 mg, 1.2 mmol) and S-trans, trans-farnesyl-L-cysteine (325 mg, 1 mmol) in THF (5 mL) was added N,N-diisopropyl-ethyl-amine (0.52 mL, 3 mmol) dropwise. The solution was stirred at room temperature overnight. The mixture was diluted with ethyl acetate (60 mL) and washed by 0.5 N HCl (10 mL×1), H2O (10 mL×2) and brine (10 mL×1). The organic layer was dried over Na2SO4 and concentrated in vacuo. The residue was then further purified by preparative HPLC (50 mg, 12%) to yield Compound N-79. 1H-NMR (500 MHz, CD3OD): δ 0.86-0.89 (m, 2H), 0.93-0.96 (m, 2H), 1.50 (s, 3H), 1.51 (s, 3H), 1.57 (s, 3H), 1.61 (s, 3H), 1.86-1.89 (m, 2H), 1.95-1.98 (m, 4H), 2.00-2.04 (m, 2H), 2.43-2.46 (m, 1H), 2.66-2.68 (m, 1H), 2.76-2.79 (m, 1H), 3.09-3.13 (m, 1H), 3.16-3.21 (m, 1H), 4.02 (t, J=5.0 Hz, 1H), 4.99-5.01 (m, 2H), 5.15 (t, J=5.0 Hz, 1H). 13C-NMR (125 MHz, CD3OD): δ 5.58, 6.28, 16.16, 16.30, 17.81, 25.96, 27.39, 27.80, 30.41, 31.73, 34.88, 40.79, 40.90, 57.75, 121.67, 125.17, 125.47, 132.12, 136.28, 140.55, 174.39; ES-MS: mass calcd for Chemical Formula: C21H35NO4S2 429.64. Found (M+) m/z 430.2, (M+Na) m/z 452.2.

reactant | cyclopropanesulfonyl chloride | 1.2 mmol, 169 mg | C1(CC1)S(=O)(=O)Cl | C3H5ClO2S
reactant | trans-farnesyl-L-cysteine | 1 mmol, 325 mg | CC(=CCC/C(=C/CC/C(=C/CSC[C@@H](C(=O)O)N)/C)/C)C | C18H31NO2S
reactant | N,N-diisopropyl-ethyl-amine | 3 mmol, 0.52 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | 60 mL | C(C)(=O)OCC | C4H8O2
product | (R)-2-(cyclopropanesulfonamido)-3-((2E,6E)-3,7,11-trimethyldodeca-2,6,10-trienylthio)propanoic acid | C1(CC1)S(=O)(=O)N[C@H](C(=O)O)CSC\C=C(\CC\C=C(\CCC=C(C)C)/C)/C | C21H35NO4S2
